US09236158B2
As the starting materials, lithium sulfide (Li2S), phosphorus pentasulfide (P2S5) and lithium iodide (LiI) were used. After measuring Li2S and P2S5 to have a molar ratio of Li2S:P2S5=75:25, LiI was measured to be 30 mol % so as to be mixed in an agate mortar together. Then, 1 g of the mixture was introduced into a 45 ml of zirconia pot, 4 g of dehydrated heptane (moisture content 30 ppm or less) was introduced, and furthermore, a zirconia ball (φ5.5 mm, 53 g) was introduced, and then the pot was completely sealed. With the pot mounted on a planetary type ball mill machine (P7™ produced by Fritsch Japan Co., Ltd.), a mechanical milling operation was carried out for 40 times with a 500 rpm base plate rotational frequency by a one hour process and 15 minutes pause cycle. Thereafter, the obtained specimen was dried on a hot plate set at 100° C. for removing the heptane so as to obtain a sulfide solid electrolyte material (sulfide glass, LiI—Li2S—P2S5).

reactant | lithium sulfide | [S-2].[Li+].[Li+]
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | lithium iodide | [I-].[Li+]
reactant | Li2S | S([Li])[Li]
solvent | heptane | 4 g | CCCCCCC | C7H16
product | LiI Li2S P2S5 | [I-].[Li+].S([Li])[Li].P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | InChI=1S/HI.3Li.P4S10.S/c;;;;5-1-9-2(6)12-3(7,10-1)14-4(8,11-1)13-2;/h1H;;;;;/q;;;+1;;/p-1
